US08580146B2
1-Ethoxy-2,3-difluorobenzene (s6) (102.8 g) and THF (1,000 ml) were placed in a reaction vessel under an atmosphere of nitrogen, and cooled to −74° C. sec-Butyllithium (1.00M; in n-hexane-cyclohexane; 780 ml) was added dropwise in the temperature range of −74° C. to −70° C., and the stirring was continued for another 2 hours. Then, 1,4-dioxaspiro[4.5]decan-8-one (s7) (101.5 g) in THF (500 ml) solution was added dropwise in the temperature range of −75° C. to −70° C., and the stirring was continued for another 8 hours while the mixture was allowed to come to 25° C. The reaction mixture was treated with an aqueous solution of ammonium chloride, and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with water, a saturated aqueous solution of sodium hydrogencarbonate and water, and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was mixed with p-toluenesulfonic acid (3.0 g) and toluene (500 ml). The mixture was heated to reflux for 2 hours while distilled water was removed. After the reaction mixture had been cooled to 30° C., it was treated with water, and the aqueous layer was extracted with toluene. The combined organic layers were washed with a saturated aqueous solution of sodium hydrogencarbonate and water, and then dried over anhydrous magnesium sulfate. The solution concentrated under reduced pressure, and the residue was purified by column chromatography with toluene as an eluent and silica gel as a stationary phase powder. The purified product was dissolved in a mixed solvent of toluene (250 ml) and Solmix A-11 (250 ml), to which Pd/C (5.0 g) was added. The mixture was stirred at room temperature under a hydrogen atmosphere until hydrogen absorption had ceased. After the reaction had been completed, Pd/C was removed, and then solvent was distilled off. The residue was purified by column chromatography with toluene as an eluent and silica gel as a stationary phase powder, and then by recrystallization from heptane to give 8-(2,3-difluoro-4-ethoxyphenyl)-1,4-dioxaspiro[4.5]decane (s8) (136.1 g). The yield based on the compound (s6) was 70.2%.

reactant | 1-Ethoxy-2,3-difluorobenzene | 102.8 g | C(C)OC1=C(C(=CC=C1)F)F | C8H8F2O
reactant | sec-Butyllithium | 1.00M, 780 ml | C(C)(CC)[Li]
reactant | 1,4-dioxaspiro[4.5]decan-8-one | 101.5 g | O1CCOC12CCC(CC2)=O | C8H12O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | THF | 1,000 ml | C1CCOC1 | C4H8O
product | 8-(2,3-difluoro-4-ethoxyphenyl)-1,4-dioxaspiro[4.5]decane | 136.1 g | FC1=C(C=CC(=C1F)OCC)C1CCC2(OCCO2)CC1 | C16H20F2O3
